US06399629B1
(B) trans-4-Glycylamino-L-Proline 4-(4′-Chlorophenoxy)phenylamide Dihydrochloride
A solution of 4 N hydrochloric acid in 1,4-dioxane (5 mL) was added to a solution of trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-proline 4-(4′-chlorophenoxy)phenylamide (A, 230 mg) in 1,4-dioxane (5 mL) at room temperature. After stirring at room temperature for 1 hr, the reaction mixture was concentrated in vacuo. The residue was washed with ether to give the title compound (112 mg) as colorless crystals: 1H NMR (400 MHz, D2O) δ 2.31 (quintet, J=7.0 Hz, 1 H), 2.59 (m, 1 H), 3.53 (m, 1 H), 3.74 (m, 1 H), 3.88 (s, 2 H), 4.50 br s, 1 H), 4.80 (m, 1 H), 6.65 (d, J=7.8 Hz, 2 H), 6.72 (d, J=7.8 Hz, 2 H), 7.03 (d, J=7.8 Hz, 2 H), and 7.39 (d, J=7.8 Hz, 2 H).

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-proline 4-(4′-chlorophenoxy)phenylamide | ClC1=CC=C(OC2=CC=C(C=C2)NC([C@H]2N(C[C@@H](C2)NC(CNC(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)C=C1 | C29H37ClN4O7
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | trans-4-Glycylamino-L-Proline 4-(4′-Chlorophenoxy)phenylamide Dihydrochloride | 112 mg | Cl.Cl.ClC1=CC=C(OC2=CC=C(C=C2)NC([C@H]2NC[C@@H](C2)NC(CN)=O)=O)C=C1 | InChI=1S/C19H21ClN4O3.2ClH/c20-12-1-5-15(6-2-12)27-16-7-3-13(4-8-16)24-19(26)17-9-14(11-22-17)23-18(25)10-21;;/h1-8,14,17,22H,9-11,21H2,(H,23,25)(H,24,26);2*1H/t14-,17+;;/m1../s1
